US08304546B2
To a DMF solution (6 ml) of 8-(4-methoxyphenyl)-5-propoxy-1,2,3,6-tetrahydro-6-aza-cyclopenta[a]naphthalen-9-one (1.26 g, 3.60 mmol) was added sodium hydride (60% oil base, 189 mg, 4.33 mmol). The mixture was stirred at room temperature for 10 minutes. To the resulting mixture was added 1-bromo-3-chloropropane (1.70 g, 10.8 mmol), followed by stirring at room temperature for 16 hours. Water and ethyl acetate were added to the reaction mixture and the resulting reaction mixture was then subjected to separation. The thus-obtained organic layer was washed with an aqueous saturated sodium chloride solution twice. After being dried over anhydrous sodium sulfate, the organic layer was concentrated under reduced pressure. The residue was purified using silica gel column chromatography (dichloromethane:ethyl acetate=20:1→12:1). The purified product was concentrated under reduced pressure, giving a yellow oily substance of 6-(3-chloropropyl)-8-(4-methoxyphenyl)-5-propoxy-1,2,3,6-tetrahydro-6-aza-cyclopenta[a]naphthalen-9-one (365 mg, yield: 92%).

reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
reactant | 8-(4-methoxyphenyl)-5-propoxy-1,2,3,6-tetrahydro-6-aza-cyclopenta[a]naphthalen-9-one | 3.60 mmol, 1.26 g | COC1=CC=C(C=C1)C1=CNC2=C(C=C3C(=C2C1=O)CCC3)OCCC | C22H23NO3
reactant | sodium hydride | 4.33 mmol, 189 mg | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | 10.8 mmol, 1.70 g | BrCCCCl | C3H6BrCl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 6-(3-chloropropyl)-8-(4-methoxyphenyl)-5-propoxy-1,2,3,6-tetrahydro-6-aza-cyclopenta[a]naphthalen-9-one | 365 mg, yield: 92% | ClCCCN1C2=C(C=C3C(=C2C(C(=C1)C1=CC=C(C=C1)OC)=O)CCC3)OCCC | C25H28ClNO3
